US09034900B2
Step 3: 2-bromo-4-ethylsulfonyl-1-methoxybenzene
A mixture of 2-bromo-4-ethylsulfonyl-1-fluorobenzene (0.6 g, 2.25 mmol) and sodium methoxide (1.2 g, 22.2 mmol) in THF (20 mL) was stirred at room temperature for 18 h. Water (30 mL) was added and extractive work up with ethyl acetate followed by silica gel chromatography (PE:EA=10:1 to 1:1) gave the title compound (0.5 g, 79.4%) as a yellow solid. 1H NMR (CDCl3, 400 MHz) δ 8.08 (d, J=2.4 Hz, 1H), 7.87-7.84 (dd, J1=8.6 Hz, J2=2.4 Hz, 1H), 7.04 (d, J=8.8 Hz, 1H), 3.99 (s, 3H), 3.11 (q, J=7.4 Hz, 2H), 1.30 (t, J=7.4 Hz, 3H).

reactant | 2-bromo-4-ethylsulfonyl-1-fluorobenzene | 2.25 mmol, 0.6 g | BrC1=C(C=CC(=C1)S(=O)(=O)CC)F | C8H8BrFO2S
reactant | sodium methoxide | 22.2 mmol, 1.2 g | C[O-].[Na+]
reactant | Water | 30 mL | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | EA | CC(OCC)=O | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-bromo-4-ethylsulfonyl-1-methoxybenzene | 0.5 g, 79.4% | BrC1=C(C=CC(=C1)S(=O)(=O)CC)OC | C9H11BrO3S
